US04230709
1-Methyl-3-n-butyl-5-(1-methylethylidene)-2,4-imidazolidinedione
3-n-Butyl-5-(1-methylethylidene)-2,4-imidazolidinedione (3.8 g 0.02 mole) was added to a suspension of sodium hydride (0.95 g 50% oil dispersion 0.2 mole) in dry dimethylformamide (30 ml) and heated at 50° C. for five minutes. The mixture was cooled to room-temperature, methyl iodide (3.4 g 0.024 mole) added and the mixture heated at 50° C. for fifteen minutes. The mixture was then evaporated to dryness on a rotary evaporator under reduced pressure and the residue dissolved in water (100 ml) and extracted into ether (3×50 ml). The ethereal solution was dried (MgSO4) the solvent removed and the residue (title compound) distilled under reduced pressure in a Kugelrohr apparatus, b.p. 100° C. at 0.01 mm. Yield=3.8 g=92%.

reactant | 3-n-Butyl-5-(1-methylethylidene)-2,4-imidazolidinedione | 0.02 mole, 3.8 g | C(CCC)N1C(NC(C1=O)=C(C)C)=O | C10H16N2O2
reactant | sodium hydride | 0.2 mole, 0.95 g | [H-].[Na+]
reactant | methyl iodide | 0.024 mole, 3.4 g | CI | CH3I
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-Methyl-3-n-butyl-5-(1-methylethylidene)-2,4-imidazolidinedione | CN1C(N(C(C1=C(C)C)=O)CCCC)=O | C11H18N2O2
